US07186714B2
8-Chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine (2 g, 8.1 mmol) was dissolved in dichloromethane (30 mL). To this solution was added N-iodosuccinimide (2.7 g, 12.1 mmol) and the resulting mixture stirred at room temperature overnight. Additional dichloromethane was added to the reaction mixture and this solution was extracted with 1 M sodium hydroxide (2×60 mL) and water, dried (magnesium sulfate), filtered and concentrated to a solid. Recrystallization from acetonitrile gave 8-chloro-2-(4-fluorophenyl)-3-iodoimidazo[1,2-α]pyridine (2.4 g, 80%) as a white solid. 1H NMR (CDCl3): δ 8.22 (d, 1H), 8.11 (q, 2H), 7.41 (d, 1H), 7.20 (t, 2H), 6.94 (t, 1H); 19F NMR (CDCl3) δ −113.2; MS m/z 373 (M+1).

reactant | 8-Chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine | 8.1 mmol, 2 g | ClC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)F | C13H8ClFN2
reactant | N-iodosuccinimide | 12.1 mmol, 2.7 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 8-chloro-2-(4-fluorophenyl)-3-iodoimidazo[1,2-α]pyridine | 2.4 g, 80% | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)I | C13H7ClFIN2
